US06207686B1
To a solution of 3-(1-tert-butoxycarbonyl-2-n-butylimidazol-4-yl)-2-(3,4-methylenedioxyphenyl)propionic acid (250 mg), L-tryptophan benzyl ester hydrochloride (209 mg) and triethylamine (128 mg) in N,N-dimethylformamide (5 ml) was added diphenylphosphoryl azide (198 mg) and the mixture was stirred at ambient temperature for 5.5 hours. The resulting mixture was diluted with ethyl acetate and the organic layer was washed successively with 0.5N hydrogen chloride aqueous solution, saturated sodium bicarbonate aqueous solution and brine. Drying, filtering and removal of the solvents afforded a crude product. The crude product was chromatographed on silica gel (eluent; n-hexane:ethyl acetate=1:2) to give [3-(1-tert-butoxycarbonyl-2-n-butylimidazol-4-yl)-2-(3,4-methylenedioxyphenyl)propionyl]-L-tryptophan benzyl ester (125 mg) as a yellow oil.

reactant | 3-(1-tert-butoxycarbonyl-2-n-butylimidazol-4-yl)-2-(3,4-methylenedioxyphenyl)propionic acid | 250 mg | C(C)(C)(C)OC(=O)N1C(=NC(=C1)CC(C(=O)O)C1=CC2=C(C=C1)OCO2)CCCC | C22H28N2O6
reactant | L-tryptophan benzyl ester hydrochloride | 209 mg | Cl.C(C1=CC=CC=C1)OC([C@@H](N)CC1=CNC2=CC=CC=C12)=O
reactant | triethylamine | 128 mg | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 198 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-(1-tert-butoxycarbonyl-2-n-butylimidazol-4-yl)-2-(3,4-methylenedioxyphenyl)propionyl]-L-tryptophan benzyl ester | 125 mg | C(C1=CC=CC=C1)OC([C@@H](NC(C(CC=1N=C(N(C1)C(=O)OC(C)(C)C)CCCC)C1=CC2=C(C=C1)OCO2)=O)CC2=CNC1=CC=CC=C21)=O | C40H44N4O7
